* \\wsl.localhost\Ubuntu-22.04\home\miqueasgamero\my_files\transresistance_amplifier\amplifier.asc
XU1 N003 N004 V+ V- N001 TL081
R1 N001 N004 10k
R§ZL N001 N003 {R}
R3 N004 0 10k
R5 N003 N002 {R}
V1 N002 0 PULSE(0 5 0 1p 1p 9m 10m)
C2 N003 0 50p
XU3 0 N003 V+ V- N010 OPAx209
Rf P001 N003 100k
Ra N010 P001 12k
Rb P001 0 120
XU2 0 N007 V+ V- out TL081
R8 N007 N010 10k
Rf_inv out N007 10k
XU4 N009 0 V+ 7812
V4 N008 0 14
XU5 N006 NC_01 V- LM7912
R2 N009 N008 50
C1 N009 0 0.33µ
C3 V+ 0 0.22µ
R4 N006 N005 50
V5 N005 0 -14
C4 N006 0 0.33µ
C5 V- 0 0.22µ
.param R=10Meg
.tran 10m
.lib OPAx209.lib
.lib \\wsl.localhost\Ubuntu-22.04\home\miqueasgamero\my_files\transresistance_amplifier\models\regulators.lib
.lib C:\Program Files\LTC\LTspiceXVII\lib\sub\TL081.sp
.backanno
.end
